US08686044B2
Preparation of N-(3-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethoxy)phenylcarbamoyl)-2-fluorophenyl)-2-chloronicotinamide (Compound No. 6-5908)
According to the method of 1-7 of Example 1, a target compound was prepared from 3-amino-N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethoxy)phenyl)-2-fluorobenzamide and 2-chloronicotinoylchloride.

reactant | 3-amino-N-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethoxy)phenyl)-2-fluorobenzamide | NC=1C(=C(C(=O)NC2=C(C=C(C=C2OC(F)(F)F)C(C(F)(F)F)(C(F)(F)F)F)Br)C=CC1)F | C17H8BrF11N2O2
reactant | 2-chloronicotinoylchloride | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
product | N-(3-(2-bromo-4-(perfluoropropan-2-yl)-6-(trifluoromethoxy)phenylcarbamoyl)-2-fluorophenyl)-2-chloronicotinamide | BrC1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)OC(F)(F)F)NC(=O)C=1C(=C(C=CC1)NC(C1=C(N=CC=C1)Cl)=O)F | C23H10BrClF11N3O3
